US08026234B2
Compound 72: (S)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(pyrrolidin-3-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and (S)-1-N—Boc 3-amino pyrrolidine. The final compound was purified by reverse phase HPLC and basified to give the free base. Further, after washing with water (10 ml), t-butoxycarbonyl (Boc) protection group was removed using 40% TFA in dichloromethane (6 ml). The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.09-1.28 (m, 1H) 1.30-1.47 (m, 2H) 1.51-1.72 (m, 4H) 1.73-1.88 (m, 4H) 1.90-2.06 (m, 1H) 2.64 (dd, J=11.24, 4.93 Hz, 1H) 2.75 (ddd, J=10.67, 7.89, 6.44 Hz, 1H) 2.82-3.03 (m, 2H) 3.31 (s, 3H) 3.94 (s, 3H) 4.06 (t, J=13.52 Hz, 2H) 4.23-4.37 (m, 1H) 4.39-4.53 (m, 1H) 7.44-7.50 (m, 1H) 7.51 (d, J=1.52 Hz, 1H) 7.90 (s, 1H) 8.21 (s, 1H) 8.23 (d, J=7.07 Hz, 1H) 8.26 (d, J=8.34 Hz, 1H). Melting point: 258-263° C. [M+H] calc'd for C26H33F2N7O3 530. found 530.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-1-N—Boc 3-amino pyrrolidine | C(=O)(OC(C)(C)C)N1C[C@H](CC1)N | C9H18N2O2
product | (S)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(pyrrolidin-3-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)N[C@@H]1CNCC1)C=C2)OC | C26H33F2N7O3
